Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Hydrochlorothiazide / Ace Inhibitors / Cipro / lisinopril
 
Attending: ___.
 
Chief Complaint:
facial skin laxity
 
Major Surgical or Invasive Procedure:
revision rhytidectomy, bilateral upper blepharoplasties, chin 
nevus excision

 
History of Present Illness:
Patient is a ___ female c a PMH of OSA on CPAP who is 
s/p revision rhytidectomy, bilateral upper blepharoplasties, 
chin nevus excision, on ___.
 
Past Medical History:
OSA on CPAP, HTN, HLD, hypothyroid, history of breast cancer
 
Social History:
___
Family History:
-
 
Physical Exam:
Physical exam as indicated on anesthesia preoperative record.
 
Brief Hospital Course:
Ms. ___ is a ___ year old female who presented for revision 
rhytidectomy, bilateral upper blepharoplasties, chin nevus 
excision, on ___. She tolerated the surgery well and had 
no events overnight postoperatively. Her incisions were clean, 
dry, and intact. Her pain was controlled, and she had no other 
concerning symptoms. She voided spontaneously and tolerated a 
regular diet. Her vital signs were stable, written instructions 
were provided, and she was appropriate for discharge.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID  
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*10 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
5.  amLODIPine 5 mg PO DAILY  
6.  Atorvastatin 20 mg PO QPM  
7.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
8.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
9.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Facial skin laxity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:
* Please contact Dr. ___ any serious change in your 
symptoms, or any new symptoms that concern you.
* Please resume all regular home medications and take any new 
meds as ordered.
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
.
You may take a bath or shower, but do not get your incisions wet 
until instructed by Dr. ___.
* Keep your dressings in place until your follow up appointment 
with Dr. ___
* No strenuous activity until instructed by Dr. ___.
* Finish all of your antibiotics
* Please call Dr. ___ if you have any acute 
swelling in your neck or face
* Please report any eye drainage or acute swelling or vision 
changes to Dr. ___.
* ___ continue cold compresses to eyes for comfort
* Sleep with head elevated to help with swelling
* do not take any medicines such as Motrin, Aspirin, Advil or 
Ibuprofen etc
.
Return to the ER if:
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
 
Followup Instructions:
___